US06472412B1
Sodium methoxide in methanol (82.65 mL of a 1 M solution) is added slowly to a stirred solution of methyl 6-chloro-5-nitronicotinate (17 g) in anhydrous methanol (250 mL) and the mixture stirred for 8 hours. The mixture is concentrated, the residue treated with water and then extracted into ethyl acetate. The extracts are washed with water, treated with decolourising charcoal and dried (MgSO4). Concentration afforded methyl 6-methoxy-5-nitronicotinate (9.8 g) as an orange solid. Recrstallisation from cyclohexane afforded white needles, m.p.118-9° C.

reactant | Sodium methoxide | C[O-].[Na+]
reactant | methyl 6-chloro-5-nitronicotinate | 17 g | ClC1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C7H5ClN2O4
solvent | methanol | CO | CH4O
solvent | methanol | 250 mL | CO | CH4O
product | methyl 6-methoxy-5-nitronicotinate | 9.8 g | COC1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C8H8N2O5
